US04888043
Sodium dithionite (27.74 g, 159 mmol) was added over a period of 30 min to a refluxing solution of 2-propionyl-3-hydroxy-5-(3-nitro-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (9.59 g, 28.9 mmol) and sodium hydroxide (1.10 g, 27.5 mmol) in 50% aqueous ethanol (350 ml). Refluxing was continued for 1 hr. The hot mixture was filtered, neutralized with dilute hydrochloric acid and extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to yield the crude 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a brown oil (3.0 g, 34%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3 ; δ in ppm): 1.17 (3H,t); 2.12 (3H,s); 2.20 (3H,s); 2.25 (3H,s); 2.3-4.2 (7H,m); 6.72 (1H,s).

reactant | Sodium dithionite | 159 mmol, 27.74 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-propionyl-3-hydroxy-5-(3-nitro-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 28.9 mmol, 9.59 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O | C18H21NO5
reactant | sodium hydroxide | 27.5 mmol, 1.10 g | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 3.0 g, 34% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)N)C)=O | C18H23NO3
